US06048885
Dimethylformamide dimethylacetal (0.53 g, 4.5 mmol) was added to 2-(4-chlorophenoxymethyl)-α-methoxyiminophenylacetamide (0.48 g, 1.5 mmol), and the mixture was stirred under reduced pressure (ca. 40 mmHg) at 60° C. for 0.5 hours. After completion of the reaction, the mixture was concentrated under reduced pressure, and a mixture of methylhydrazine (0.08 g, 1.8 mmol) and acetic acid (3 ml) was added to the residue. The mixture was stirred at 90° C. for 1 hour. After completion of the reaction, ether (150 ml) was added, and the mixture was washed with saturated aqueous sodium bicarbonate solution (100 ml) twice. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) and recrystallized from ethyl acetate/n-hexane to give 2-(4-chlorophenoxymethyl)phenyl 1-methyl-1H-1,2,4-triazol-5-yl ketone O-methyloxime (0.31 g, 57.9%) as colorless crystals.

reactant | Dimethylformamide dimethylacetal | 4.5 mmol, 0.53 g | COC(N(C)C)OC | C5H13NO2
reactant | 2-(4-chlorophenoxymethyl)-α-methoxyiminophenylacetamide | 1.5 mmol, 0.48 g | ClC1=CC=C(OCC2=C(C=CC=C2)C(C(=O)N)=NOC)C=C1 | C16H15ClN2O3
reactant | methylhydrazine | 1.8 mmol, 0.08 g | CNN | CH6N2
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(4-chlorophenoxymethyl)phenyl 1-methyl-1H-1,2,4-triazol-5-yl ketone O-methyloxime | 0.31 g, 57.9% | CON=C(C1=C(C=CC=C1)COC1=CC=C(C=C1)Cl)C1=NC=NN1C | C18H17ClN4O2
